US05726165
n-Hexylhydroxymethylphosphinic acid, n-butyl ester
The title compound was prepared from n-hexylphosphinic acid, n-butyl ester and paraformaldehyde according to the method described in Procedure 31. Purification by chromatography, eluting with dichloromethane containing 5% methanol, gave an oil.

reactant | n-hexylphosphinic acid, n-butyl ester | C(CCCCC)P(OCCCC)=O | C10H23O2P
reactant | paraformaldehyde | C=O | CH2O
product | n-Hexylhydroxymethylphosphinic acid, n-butyl ester | C(CCCCC)P(OCCCC)(=O)CO | C11H25O3P
